Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ year old woman with PMH notable for 
paranoid mood disorder and lung adenocarcnioma s/p SBRT c/b 
R-sided pleural effusion s/p recent throcentesis as well as 
possible recurrence of disease, presenting with hip pain after 
fall.  
 History is quite limited as it is taken from patient alone, who 
is very tangential, easily distracted, and expressing paranoid 
thoughts and not producing an easily intelligible story.  
 But, from report and what patient endorses, she was walking out 
of her home on day of presentation and was distracted by how 
beautiful the ocean was in ___ in her ___ when 
she suddenly tripped and fell on her left side. She does not 
think she hit her head or lost consciousness. She felt immediate 
pain near her left hip after the fall and has an abrasion over 
her left elbow. However, she denies any headache or confusion 
following the fall. When asked about prodromal symptoms, she 
states that she "does not like to be placed into a category or 
box" and does not elaborate upon the question asked.  
 Per report, however, she did not have any chest pain/pressure, 
SOB. She was brought to the hospital by EMS (called by men who 
witnessed the fall per patient) and transferred to ___ for 
further care.  
 In the ED, initial vitals were: 98.7 88 152/79 18 96% RA  
 Exam notable for: tangential and rambling - baseline per 
friends  
 ___ notable for:  
 -K3.2, Calcium 8.1  
 -Albumin 3  
 -WBC 11.3 (83.7% PMNs), Hgb 9.8, Hct 31  
 -U/A showing few bacteria, trace protein, but otherwise bland  
 -Negative serum tox  
 -lactate 1.5  
 Imaging was notable for hip X-ray showing minimally displaced 
left pubic ramus fracture.  
 Patient was given.  
 -500cc IVF  
 She was admitted to medicine for management of non-displaced 
fracture, work-up for possible medical causes of altered mental 
status.  
 Upon arrival to the floor, patient endorses the above history 
and states that she is not in much pain right now when not 
moving. With movement of lower extremities however, there is 
significant pain in her left hip. She does add that she feels a 
little uncomfortable in the suprapubic region because she needs 
to urinate. She also endorses severe constipation, but cannot 
remain attentive enough to answer the question of when her last 
BM was. Notably, per report from the ED, her friends, who were 
by her bedside there endorses concerns that she was not safe to 
go home.  
 
Past Medical History:
-Lung adenocarcinoma s/p SBRT (detailed as below)  
 -Mental illness with paranoid ideation  
 -Glaucoma  
 -COPD/Chronic bronchitis  
 -Collagenous colitis  
 -Hyperlipidemia  
 -Osteopenia  
 -Osteoarthritis  
 -Thyroid nodule  
 -Insomnia  
 
Social History:
___
Family History:
Mother died with brain mets unknown primary. Brother died at ___ 
and sister died of ___, both from heart problems. 
 
Physical Exam:
PHYSICAL EXAM UPON ADMISSION:
 VITAL SIGNS: 98.0 146/71 94 20 93RA  
 WEIGHT: 42.5kg  
 GENERAL: malnourished, thin, but lying in bed in NAD  
 HEENT: temporal wasting, EOMI, PERRL, MMM tongue midline on 
protrusion, symmetric palatal elevation  
 NECK: no tenderness on palpation of posterior neck, supple, 
symmetric, thin  
 CARDIAC: RRR, no m/r/g  
 LUNGS: good air movement throughout; no significant wheezing; 
rhonchorous noises best appreciated in bases (R>L)  
 ABDOMEN: Soft, ND, NTTP apart from mild discomfort over 
suprpubic region, no r/g; BS+  
 EXTREMITIES: WWP, 2+ pitting edema in b/l ___ up to knees  
 NEUROLOGIC: alert, oriented x1; moving all extremities well; 
strength ___ in b/l UE, able to wiggle toes b/l; sensation to 
light touch intact and symmetric throughout all divisions of 
CN5, UE, torso, and ___  
 SKIN: abrasion over left elbow noted  

PHYSICAL EXAM UPON DISCHARGE:
Vitals:  97.8 114/65 65 20 97% RA 
GENERAL: malnourished, thin, but lying in bed in NAD  
HEENT: temporal wasting, EOMI, PERRL
NECK: no tenderness on palpation of posterior neck, supple, 
symmetric, thin  
CARDIAC: RRR, no m/r/g  
LUNGS: good air movement throughout; no significant wheezing; 
decreased breath sounds at the right base  
ABDOMEN: Soft, NABS, nontender to palpation in all four 
quadrants
EXTREMITIES: WWP, 2+ pitting edema in b/l ___ up to knees  
NEUROLOGIC/PSYCH: tangential, disorganized thought process, 
affect is euthymic, poor judgment, fair insight
SKIN: abrasion over left elbow noted 
 
Pertinent Results:
___ UPON ADMISSION:
====================
___ 12:40AM BLOOD WBC-11.3*# RBC-3.48* Hgb-9.8* Hct-31.0* 
MCV-89 MCH-28.2 MCHC-31.6* RDW-15.7* RDWSD-50.9* Plt ___
___ 12:40AM BLOOD ___ PTT-26.9 ___
___ 12:40AM BLOOD Glucose-96 UreaN-12 Creat-0.5 Na-138 
K-3.2* Cl-99 HCO3-25 AnGap-17
___ 12:40AM BLOOD Albumin-3.0* Calcium-8.1* Phos-3.8 Mg-2.0
___ 12:40AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:37AM BLOOD TSH-0.77
___ 09:37AM BLOOD HIV Ab-Negative
___ 12:47AM BLOOD Lactate-1.5

___ 9:37 am SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

___ 12:56 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

___ 12:40 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ UPON DISCHARGE:
=====================
___ 10:16AM BLOOD WBC-7.7 RBC-3.45* Hgb-10.0* Hct-31.5* 
MCV-91 MCH-29.0 MCHC-31.7* RDW-15.9* RDWSD-52.1* Plt ___
___ 10:16AM BLOOD Glucose-91 UreaN-18 Creat-0.5 Na-132* 
K-4.3 Cl-96 HCO3-26 AnGap-14
___ 10:16AM BLOOD Calcium-8.2* Phos-3.9 Mg-2.2

IMAGING:
========
 ___ CT C-spine:  
 1. Minimal anterolisthesis of C4 on C5 and C5 on C6, which is 
likely degenerative in nature, however there are no priors for 
comparison.  
 2. No evidence of acute fracture.  
 3. Multilevel multifactorial degenerative changes with severe 
neural foraminal stenosis at C3-4 and C4-5 on the right.  
 4. Moderate right pleural effusion.  

 ___ NCHCT:  
 1. No acute hemorrhage.  
 2. Global volume loss. White matter hypodensities which are 
likely sequela of chronic small vessel disease.  
 3. More discrete hypodensity at the inferior aspect of the 
cerebellum on the right. This is not definitively due to a 
chronic infarct and could potentially be due to edema. MRI 
should be performed to further characterize this region and to 
assess for underlying lesion.  

 ___ Bilateral Hip X-rays: Minimally displaced fracture 
through the inferior pubic ramus on the left.  

 ___ CXR: Interval increase in a now moderate to large right 
pleural effusion since  
 
Brief Hospital Course:
Ms. ___ is an ___ year old woman with PMH notable for 
paranoid delusional disorder, anxiety and lung adenocarcnioma 
s/p SBRT c/b R-sided pleural effusion s/p recent thoracentesis 
presenting with acute non-displaced left pubic ramus fracture 
and failure to thrive at home also treated for CAP during her 
hospitalization.

# Non-displaced Pubic Ramus Fracture:  
# Fall
Patient did not lose consciousness and had no prodromal sx. 
Reports that she was in a rush and tripped. EKG w/o ischemia and 
no murmur on exam. No hx of lightheadedness or syncope. Fall 
thought to be mechanical in nature. Non operative. Seen by ___ 
who recommended rehab. Pain was treated with PRN tylenol.
 
# Failure to thrive:  
# Mood disorder with paranoid features: 
Patient has a history of anxiety and delusional disorder with 
paranoia. Upon admission, there was some concern that she was 
delirious or not at her baseline mental status. After discussion 
with friends, it became clear that patient was at her baseline 
mental status. An infectious work up that was initiated upon 
admission was unrevealing, TSH, and RPR were also normal. She 
was seen by psychiatry who recognized her paranoia and anxiety 
but did not recommend treatment as it is unlikely to help. THe 
patient remained kind and cooperative during her 
hospitalization. She was seen by our occupational therapy team 
who noted "impairments in safety, ADLS and cognition." She was 
also seen by social work and planned for discharge to rehab, 
with post-rehab placement in assisted living facility. 

# Upper respiratory tract infection,
# Community acquired pneumonia:
Pt developed fever and noted worsening cough during her 
hospitalization. Her CXR was noteable for R sided pleural 
effusion. She had a recent CT scan with bronchiectasis and some 
findings c/w infection and recent thoracentesis revealed 
exudative process. She was treated with cefpodoxime and 
azithromycin for five days and symptoms resolved.

# Cerebellar lesion: initially identified on head CT upon 
admission. Underwent MRI for further evaluation. MRI report 
reads: "20 x 13 mm right cerebellar late subacute hemorrhage, 
corresponding to hemorrhagic lesion on prior CT, as described. 
Differential considerations include cavernous malformation with 
hemorrhage, hypertensive hemorrhage, and amyloid angiopathy with 
hemorrhagic metastatic lesion not excluded on the basis of this 
examination. Recommend follow-up imaging to resolution." These 
findings were thought to be incidental and not the cause of the 
patient's hospitalization given her stable mental status and 
neurologic exam. An echo was ordered to r/o embolic phenomena 
and showed no evidence of PFO or intracardic thrombus. She was 
placed on telemetry, which did not reveal evidence of 
arrhythmia. Atorvastatin 40 mg and baby aspirin were initiated 
for stroke prevention. ** She should have a repeat head MRI in 3 
months. ** This was communicated to patient during her inpatient 
stay. Letter also sent to her rehab facility for transition hand 
off.  

CHRONIC:
# Chronic R sided pleural effusion: Patient with R sided pleural 
effusion, likely the result of prior XRT. She has had 
thoracentesis with pleural fluid analysis negative for malignant 
cells as recently as in ___. Fluid has been exudative. 
Spoke with IP upon admission and they had seen her the day prior 
to admission (___) -- and they recommended return to clinic in 4 
weeks. An appointment was scheduled on her behalf on ___ at 
3:30PM. 
 
# Adenocarcinoma of the lung: stage 1B s/p SBRT. Followed by 
radiation oncology and thoracic team here at ___. Most recent 
CT scan in ___ with bronchiectasis with new diffuse 
peribronchial nodularity, and RML consolidation as well as R 
pleural effusion. Treated tissue in the LUL and superior segment 
LLL was also noted to bulkier than prior. Per most recent note 
from thoracic surgery, they are not concerned that she has 
significantly increased burden of disease and are continuing to 
monitor with CT scans.

===================================
**  TRANSITIONAL ISSUES  **
===================================
## CEREBELLAR LESION: needs repeat head MRI in ___

## R SIDED PLEURAL EFFUSION & LUNG ADENOCARCINOMA: follow up 
scheduled below. Discharged on room air, lungs clear and 
respirations comfortable. 
 Department: HEMATOLOGY/ONCOLOGY  -- LUNG CANCER CLINIC 
 When: ___ at 3:30 ___
 With: ___
 Building: ___
 Campus: ___    Best Parking: ___

## CODE STATUS: Full 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Docusate Sodium 100 mg PO BID  
5.  Senna 17.2 mg PO HS  
6.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Non-displaced pubic ramus fracture
Failure to thrive
Community acquired pneumonia
Cerebellar lesion

Secondary diagnosis:
Lung adenocarcinoma
Anxiety
Delusional disorder

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms ___,

What brought you into the hospital?
-You came to the hospital after a fall

What happened while you were in the hospital?
-You were found to have a non displaced pelvic fracture. This 
kind of fracture does not require surgery. Our physical 
therapists saw you and think that you will benefit from rehab.

What should you do when you leave the hospital?
-You should continue to work to get strong at rehab.

It was a pleasure taking care of you.

Best,
Your ___ Care Team
 
Followup Instructions:
___